US07514449B2
1-Pyridin-4-ylpiperidin-4-carboxylic acid
4-Chloropyridine hydrochloride (9.55 g) and triethylamine (26.0 ml) are dissolved in ethanol (10 ml) and water (30 ml), and thereto is added ethyl isonicotinate (10.00 g). The reaction solution is then heated at 150° C. for 96 hours in a sealed tube. After allowing to cool, ethanol is added to the reaction solution and the insoluble materials are removed by filtration. The filtrate is concentrated under reduced pressure, and the resulting residue is suspended in chloroform. The precipitates are collected by filtration and recrystallized from water/N,N-dimethylformamide to give the title compound (10.34 g).

reactant | 4-Chloropyridine hydrochloride | 9.55 g | Cl.ClC1=CC=NC=C1
reactant | triethylamine | 26.0 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl isonicotinate | 10.00 g | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 1-Pyridin-4-ylpiperidin-4-carboxylic acid | 10.34 g | N1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C11H14N2O2
